US07368578B2
To a mixture of methyl 3-(4-{[4-(hydroxymethyl)phenoxy]methyl}-5-methyl-1,3-oxazol-2-yl)benzoate (1.34 g), 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde (0.50 g), tributylphosphine (0.77 g) and tetrahydrofuran (100 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.96 g) was added at room temperature, and the mixture was stirred for 15 hrs. The precipitated crystals were removed by filtration and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give methyl 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate as crystals (0.62 g, yield 47%) from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 161-162° C.

reactant | methyl 3-(4-{[4-(hydroxymethyl)phenoxy]methyl}-5-methyl-1,3-oxazol-2-yl)benzoate | 1.34 g | OCC1=CC=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=C1 | C20H19NO5
reactant | 3-hydroxy-1-phenyl-1H-pyrazole-4-carbaldehyde | 0.50 g | OC1=NN(C=C1C=O)C1=CC=CC=C1 | C10H8N2O2
reactant | tributylphosphine | 0.77 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 0.96 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 3-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}phenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}benzoate | 0.62 g, yield 47% | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC=C(OCC=2N=C(OC2C)C=2C=C(C(=O)OC)C=CC2)C=C1 | C30H25N3O6
